US09376441B2
To a solution of (4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridin-3-yl)methanol (274 mg, 0.946 mmol) in TFA (3.0 mL) was added triethylsilane (0.604 mL, 3.78 mmol). The reaction was stirred at 60° C. overnight. Incomplete removal of the benzyl group was observed. The reaction was concentrated, dissolved in HBr (48%, 3.5 ml) and the reaction was heated at 100° C. overnight. The reaction was cooled and neutralized by the addition of 2N NaOH. The aqueous layer was extracted with EtOAc (3×) and the combined organics were washed with saturated NaHCO3 (aq), brine, dried (MgSO4), filtered and concentrated to provide 6-chloro-3-methylpyrazolo[1,5-a]pyridin-4-ol. LCMS-ES I+(m/z): [M+H]+ calcd for C8H7ClN2O: 183.0; found 183.0.

reactant | (4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridin-3-yl)methanol | 0.946 mmol, 274 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)N=CC2CO | C15H13ClN2O2
reactant | triethylsilane | 3.78 mmol, 0.604 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-chloro-3-methylpyrazolo[1,5-a]pyridin-4-ol | ClC=1C=C(C=2N(C1)N=CC2C)O | C8H7ClN2O
